US06150521
11.8 g (0.0725 mol) of benzofuran-2,3-dione 2-oxime (XI-1) (Stoermer, Kahlert, B. 35, 1644) are dissolved in 75 ml of dimethylformamide. With cooling, 3 g (0.075 mol) of 60% strength sodium hydride (mineral oil suspension) are added a little at a time and stirring is continued at a temperature of 25° C. for about one hour until the formation of gas has ceased. The mixture is then cooled to 0° C., and at this temperature 9.3 g (0.0744 mol) of 2-bromoethanol are added dropwise and stirring is continued at 25° C. for a further 24 hours. The reaction mixture is poured into water and the resulting mixture is extracted with ethyl acetate, the organic phase is dried over sodium sulphate and the solvent is distilled off under reduced pressure. The residue is recrystallized from a mixture of 150 ml of toluene and 100 ml of cyclohexane. 11.5 g (64% of theory) of benzofuran-2,3-dione 2-[O-(2-hydroxy-ethyl)-oxime] (VII-1) are obtained (content according to HPLC analysis: 83.5%). A sample recrystallized from toluenes has a melting point of 110-111° C.

reactant | benzofuran-2,3-dione 2-oxime | 0.0725 mol, 11.8 g | O1C(C(C2=C1C=CC=C2)=O)=NO | C8H5NO3
reactant | sodium hydride | [H-].[Na+]
reactant | 2-bromoethanol | 0.0744 mol, 9.3 g | BrCCO | C2H5BrO
reactant | water | O | H2O
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | benzofuran-2,3-dione 2-[O-(2-hydroxy-ethyl)-oxime] | 11.5 g, 64% | OCCON=C1OC2=C(C1=O)C=CC=C2 | C10H9NO4
